US08685969B2
6. 4-(3-Amino-2-methylphenyl)-7-bromo-9H-pyrido[3,4-b]indole-1-carboxamide
To a solution of benzyl 3-(7-bromo-1-carbamoyl-9H-pyrido[3,4-b]indol-4-yl)-2-methylphenylcarbamate (0.65 g, crude from the previous step) in acetonitrile (80 mL) at 0° C. was added iodotrimethylsilane (0.67 mL, 4.91 mmol) dropwise. The mixture was stirred at room temperature for 1.5 hr, and then concentrated under vacuum. To the residue was added diethylamine (2 mL) and ethyl acetate (150 ml). The mixture was washed with water (2×40 mL) and brine (40 mL), and dried over anhydrous MgSO4. The desired product (0.243 g, 52.6% yield over two steps) was isolated as a beige solid by ISCO (40 g silica gel, solid loading, 40-70% ethyl acetate/hexane).

reactant | benzyl 3-(7-bromo-1-carbamoyl-9H-pyrido[3,4-b]indol-4-yl)-2-methylphenylcarbamate | BrC1=CC=C2C3=C(NC2=C1)C(=NC=C3C=3C(=C(C=CC3)NC(OCC3=CC=CC=C3)=O)C)C(N)=O | C27H21BrN4O3
reactant | iodotrimethylsilane | 4.91 mmol, 0.67 mL | I[Si](C)(C)C | C3H9ISi
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | acetonitrile | 80 mL | C(C)#N | C2H3N
product | 4-(3-Amino-2-methylphenyl)-7-bromo-9H-pyrido[3,4-b]indole-1-carboxamide | 0.243 g, 52.6% yield | NC=1C(=C(C=CC1)C1=CN=C(C=2NC3=CC(=CC=C3C21)Br)C(=O)N)C | C19H15BrN4O
